US08461179B1
To a biphasic solution of 3-fluoroaniline (0.3 mL, 3.12 mmol) in 1:1 EtOAc/water (10 mL) was added isopropenyl chloroformate (0.564 g, 4.68 mmol) and NaHCO3 (1.31 g, 15.6 mmol) and the mixture stirred at RT overnight. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were concentrated to dryness and purified by silica gel chromatography (EtOAc/Hex) to furnish prop-1-en-2-yl 3-fluorophenylcarbamate (125 mg, 21% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 10.14 (s, 1H), 7.35 (m, 1H), 7.31 (m, 1H), 7.21 (m, 1H), 6.83 (m, 1H), 4.74 (m, 2H), 1.92 (s, 3H).

reactant | 3-fluoroaniline | 3.12 mmol, 0.3 mL | FC=1C=C(N)C=CC1 | C6H6FN
reactant | isopropenyl chloroformate | 4.68 mmol, 0.564 g | ClC(=O)OC(=C)C | C4H5ClO2
reactant | NaHCO3 | 15.6 mmol, 1.31 g | C(=O)(O)[O-].[Na+]
solvent | EtOAc water | 10 mL | CCOC(=O)C.O
product | prop-1-en-2-yl 3-fluorophenylcarbamate | 125 mg, 21% yield | FC=1C=C(C=CC1)NC(OC(=C)C)=O | C10H10FNO2
